### PR TITLE
[Merged by Bors] - feat(Analysis/Distribution): Multiplication of two functions of temperate growth is of temperate growth

### PR DESCRIPTION
**Pull request by mcdoll**
---

- [x] depends on: #30553

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 1]
```diff
@@ -562,6 +562,62 @@ lemma _root_.Function.HasTemperateGrowth.const (c : F) :
...
+  refine Finset.sum_le_sum fun i hi => ?_
+  rw [one_mul]
+  move_mul [(Nat.choose n i : ℝ), (Nat.choose n (n / 2) : ℝ)]
+  gcongr ?_ * ?_
+  swap
+  · norm_cast
+    exact i.choose_le_middle n
+  simp only [Finset.mem_range] at hi
+  grw [h1 i (Nat.le_of_lt_succ hi) x, h2 (n - i) (by simp only [tsub_le_self]) x]
+  grind
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean]: Thinking about this proof prompted me to open #30251. With the tools there, you can do:
```suggestion
/-- The product of two functions of temperate growth is again of temperate growth.
Version for bilinear maps. -/
theorem _root_.ContinuousLinearMap.bilinear_hasTemperateGrowth [NormedSpace 𝕜 E]
    (B : E →L[𝕜] F →L[𝕜] G) {f : D → E} {g : D → F} (hf : f.HasTemperateGrowth)
    (hg : g.HasTemperateGrowth) : (fun x ↦ B (f x) (g x)).HasTemperateGrowth := by
  rw [Function.hasTemperateGrowth_iff_isBigO]
  constructor
  · apply (B.bilinearRestrictScalars ℝ).isBoundedBilinearMap.contDiff.comp (hf.1.prodMk hg.1)
  intro n
  rcases hf.isBigO_uniform n with ⟨k1, h1⟩
  rcases hg.isBigO_uniform n with ⟨k2, h2⟩
  use k1 + k2
  have estimate (x : D) : ‖iteratedFDeriv ℝ n (fun x ↦ B (f x) (g x)) x‖ ≤
      ‖B‖ * ∑ i ∈ Finset.range (n+1), (n.choose i) *
        ‖iteratedFDeriv ℝ i f x‖ * ‖iteratedFDeriv ℝ (n-i) g x‖ := by
    refine (B.bilinearRestrictScalars ℝ).norm_iteratedFDeriv_le_of_bilinear hf.1 hg.1 x ?_
    exact WithTop.coe_le_coe.mpr le_top
  refine (IsBigO.of_norm_le estimate).trans (.const_mul_left (.sum fun i hi ↦ ?_) _)
  simp_rw [mul_assoc, pow_add]
  refine .const_mul_left (.mul (h1 i ?_).norm_left (h2 (n-i) ?_).norm_left) _ <;>
  grind
```

This is not that much shorter, but I think it is significantly simpler conceptually (but I might just be scared by explicit bounds...)

Comment (mcdoll) [reply Mathlib/Analysis/Distribution/SchwartzSpace.lean]: I think we can make it way more convenient if we add `isBigO` versions of all of the lemmas for bounds of `iteratedFDeriv`. Then you hide the annoying factors of the bilinear form and the binomial coefficient (and maybe there is already the ingredients to deal with the sums).
Your proposed version seems like a step in the right direction, so maybe we go with that for the moment.

Comment (ADedecker) [reply Mathlib/Analysis/Distribution/SchwartzSpace.lean]: Yes, I agree this is not yet optimal. I was going to try stating these but realized I wouldn't have time to make it clean, which is why I stopped at this version.

**Comment by sgouezel** [comment]
bors r+
Thanks!
